US04015010
A mixture of 16.5 g. (0.085 mole) of 3'-fluoro-2,2,4'-trimethyl propiophenone, 30.0 g. (0.532 mole) potassium hydroxide and 150 ml. H2O is treated with 26.7 g. (0.170 mole) of potassium permanganate in 150 ml. of water. The resulting mixture is refluxed for 4 1/2 hours. The cooled mixture is then treated with 5 ml. ethanol and filtered. The aqueous solution is extracted with ether and then acidified with concentrated hydrochloric acid. The resulting solid is washed with water and suspended in methylene chloride and then filtered. The methylene chloride filtrate is dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to give o-fluoro-4-pivaloyl benzoic acid.

reactant | 3'-fluoro-2,2,4'-trimethyl propiophenone | 0.085 mole | FC=1C=C(C=CC1C)C(C(C)(C)C)=O | C12H15FO
reactant | potassium hydroxide | 0.532 mole | [OH-].[K+]
reactant | potassium permanganate | 0.170 mole | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | O | H2O
product | o-fluoro-4-pivaloyl benzoic acid | FC1=C(C(=O)O)C=CC(=C1)C(C(C)(C)C)=O | C12H13FO3
